US09193723B2
N-(imidazo[1,2-a]pyridin-7-ylmethyl)-2-(1-phenylpiperidin-4-yl)-1,3-thiazole-5-carboxamide
Lithium 2-(1-phenylpiperidin-4-yl)thiazole-5-carboxylate (28.8 mg, 0.098 mmol), imidazo[1,2-a]pyridin-7-ylmethanamine (17.31 mg, 0.118 mmol), 4-methylmorpholine (49.6 mg, 0.490 mmol) and 2-(3H-[1,2,3]triazolo[4,5-b]pyridin-3-yl)-1,1,3,3-tetramethylisouronium hexafluorophosphate(V) (55.9 mg, 0.147 mmol) were combined in a vial with dichloromethane (2.5 ml) and the reaction was stirred overnight. The mixture was partitioned between dichloromethane and saturated sodium bicarbonate. The organic layers were dried with sodium sulfate, filtered, and concentrated. Trituration of the crude material with dichloromethane provided the title compound. 1H NMR (300 MHz, DMSO-d6) ppm 9.21 (t, J=5.9 Hz, 1H), 8.49 (dd, J=7.0, 0.9 Hz, 1H), 8.34 (s, 1H), 7.91-7.88 (m, 1H), 7.52 (d, J=1.2 Hz, 1H), 7.43-7.38 (m, 1H), 7.26-7.16 (m, 2H), 7.01-6.93 (m, 2H), 6.84 (dd, J=7.0, 1.7 Hz, 1H), 6.81-6.72 (m, 1H), 4.48 (d, J=5.9 Hz, 2H), 3.81-3.73 (m, 2H), 3.24-3.01 (m, 1H), 2.90-2.78 (m, 2H), 2.19-2.09 (m, 2H), 1.90-1.73 (m, 2H); MS (ESI(+)) m/e 418 (M+H)+.

reactant | Lithium 2-(1-phenylpiperidin-4-yl)thiazole-5-carboxylate | 0.098 mmol, 28.8 mg | C1(=CC=CC=C1)N1CCC(CC1)C=1SC(=CN1)C(=O)[O-].[Li+]
reactant | imidazo[1,2-a]pyridin-7-ylmethanamine | 0.118 mmol, 17.31 mg | N=1C=CN2C1C=C(C=C2)CN | C8H9N3
reactant | 4-methylmorpholine | 0.490 mmol, 49.6 mg | CN1CCOCC1 | C5H11NO
reactant | 2-(3H-[1,2,3]triazolo[4,5-b]pyridin-3-yl)-1,1,3,3-tetramethylisouronium hexafluorophosphate(V) | 0.147 mmol, 55.9 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | dichloromethane | 2.5 ml | ClCCl | CH2Cl2
product | N-(imidazo[1,2-a]pyridin-7-ylmethyl)-2-(1-phenylpiperidin-4-yl)-1,3-thiazole-5-carboxamide | N=1C=CN2C1C=C(C=C2)CNC(=O)C2=CN=C(S2)C2CCN(CC2)C2=CC=CC=C2 | C23H23N5OS
